US05523278
Preparation of 3-(o-Methoxyphenyl)-5-nitro-1,2-benzisothiazole
A solution of the oxime of 2'-methoxy-2-(methylthio)-5-nitrobenzophenone (8.3 g, 26.1 mmol) and acetic anhydride (20 mL) in pyridine (150 mL) is refluxed for 5 days, cooled and concentrated in vacuo to obtain a dark solid. A mixture of the solid in methanol is acidified with concentrated hydrochloric acid (pH5), diluted with water and filtered to obtain a solid. A solution of the solid in methylene chloride is passed through a silica gel pad and concentrated in vacuo to give the title product as a solid, mp 193°-198° C.

reactant | 2'-methoxy-2-(methylthio)-5-nitrobenzophenone | 26.1 mmol, 8.3 g | COC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])SC)=O | C15H13NO4S
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | pH5 | Cl | ClH
reactant | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(o-Methoxyphenyl)-5-nitro-1,2-benzisothiazole | COC1=C(C=CC=C1)C1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C14H10N2O3S
